US05580893
N-(2-Nitroxyethyl)-3-methylphenoxyacetamide (Exemplified compound No. 11)
Following a similar treatment to that in Example 2 and using 0.71 g of 3-methylphenoxyacetic acid and 0.6 g of 2-nitroxyethylamine nitrate, 0.50 g of the title compound was obtained as colorless powdery crystals (solvent for recrystallization; hexane).

reactant | 3-methylphenoxyacetic acid | 0.71 g | CC=1C=C(OCC(=O)O)C=CC1 | C9H10O3
reactant | 2-nitroxyethylamine nitrate | 0.6 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
solvent | hexane | CCCCCC | C6H14
product | N-(2-Nitroxyethyl)-3-methylphenoxyacetamide | 0.50 g | O([N+](=O)[O-])CCNC(COC1=CC(=CC=C1)C)=O | C11H14N2O5
